US05232931
A solution of 4.87 g of 1-(3-p-methoxyphenyloxazolidin-2-one-5-yl-methyl)-4-(3,4-methylenedioxyphenyl)pyridinium bromide [obtainable from 3-p-methoxyphenyl-5-bromomethyloxazolidin-2-one and 4-(3,4-methylenedioxyphenyl)pyridine] in 60 ml of acetic acid is hydrogenated over 1 g of 10% strength Pd/carbon at 20° and atmospheric pressure until the absorption of hydrogen has ceased. After filtration, evaporation and usual workup, 3-p-methoxyphenyl-5-[4-(3,4-methylenedioxyphenyl)piperidinomethyl]oxazolidin-2-one is obtained.

reactant | 1-(3-p-methoxyphenyloxazolidin-2-one-5-yl-methyl)-4-(3,4-methylenedioxyphenyl)pyridinium bromide | 4.87 g | [Br-].COC1=CC=C(C=C1)N1C(OC(C1)C[N+]1=CC=C(C=C1)C1=CC2=C(C=C1)OCO2)=O
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
catalyst | Pd carbon | [Pd].[C]
product | 3-p-methoxyphenyl-5-[4-(3,4-methylenedioxyphenyl)piperidinomethyl]oxazolidin-2-one | COC1=CC=C(C=C1)N1C(OC(C1)CN1CCC(CC1)C1=CC2=C(C=C1)OCO2)=O | C23H26N2O5
